US06479486B2
(1R*,5S*,6R*)-8-Benzyl-1-phenyl-6-phenylsulphonyl-8-azabicyclo[3.2.1]octan-2-one
10% Palladium on carbon (1 g) was added as a slurry in water (2 ml) to a solution of (1R*,5S*,6R*)-8-benzyl-1-phenyl-6-phenylsulphonyl-8-azabicyclo[3.2.1]oct-3-ene-2-one (Description 6; 11 g, 25.6 mmol) in methanol (50 ml) and ethyl acetate (50 ml). The mixture was hydrogenated at 30 psi for one hour. The reaction mixture was filtered through a pad of Celite™. The filter cake was washed with dichloromethane (1L) and the combined filtrates concentrated in vacuo to give the title compound (10.8 g, 98%).

reactant | (1R*,5S*,6R*)-8-benzyl-1-phenyl-6-phenylsulphonyl-8-azabicyclo[3.2.1]oct-3-ene-2-one | 25.6 mmol, 11 g | C(C1=CC=CC=C1)N1[C@@]2(C(C=C[C@H]1[C@@H](C2)S(=O)(=O)C2=CC=CC=C2)=O)C2=CC=CC=C2 | C26H23NO3S
catalyst | Palladium on carbon | 1 g | [Pd] | Pd
solvent | water | 2 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (1R*,5S*,6R*)-8-Benzyl-1-phenyl-6-phenylsulphonyl-8-azabicyclo[3.2.1]octan-2-one | 10.8 g, 98% | C(C1=CC=CC=C1)N1[C@@]2(C(CC[C@H]1[C@@H](C2)S(=O)(=O)C2=CC=CC=C2)=O)C2=CC=CC=C2 | C26H25NO3S
